US04936121
3-Bromo-N-(2,6-diethylphenyl)-6,7,8,9-tetrahydro-4-methyl-2-oxo-2H-quinolizine-1-carboxamide (Compound 2)
A mixture of 0.11 ml of bromine and 8 ml of methylene chloride was dropwise added to a mixture of 0.70 g of N-(2,6-diethylphenyl)-6,7,8,9-tetrahydro-4-methyl-2-oxo-2H-quinolizine-1-carboxamide, 1.27 g of sodium carbonate and 12 ml of methylene chloride at room temperature taking 30 minutes and further stirred for 5 hours at room temperature. After filtering the insoluble material off, the solution was concentrated and the resulting crystalline residue was recrystallized from a mixture of ethyl acetate and methanol to afford 0.64 g (Yield 75%) of the title compound.

reactant | bromine | 0.11 ml | BrBr | Br2
reactant | N-(2,6-diethylphenyl)-6,7,8,9-tetrahydro-4-methyl-2-oxo-2H-quinolizine-1-carboxamide | 0.70 g | C(C)C1=C(C(=CC=C1)CC)NC(=O)C=1C(C=C(N2CCCCC12)C)=O | C21H26N2O2
reactant | sodium carbonate | 1.27 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 3-Bromo-N-(2,6-diethylphenyl)-6,7,8,9-tetrahydro-4-methyl-2-oxo-2H-quinolizine-1-carboxamide | 0.64 g, Yield 75% | BrC=1C(C(=C2CCCCN2C1C)C(=O)NC1=C(C=CC=C1CC)CC)=O | C21H25BrN2O2
